US06245746B1
(A) Boc-β-(2-Thiazolyl)alanyl-Nδ-Boc-Nα-Methylornithine β-Naphthylamide
Boc-β-(2-thiazolyl)alanine and Nδ-Boc-Nα-methylornithine β-naphthylamide were coupled under the conditions described in Procedure B, afforded a glassy solid which was purified by silica gel chromatography (1 to 2% MeOH/CH2Cl2): 1H NMR (400 MHz, CDCl3) δ1.45 (s, 9H), 1.50 (s, 9H), 1.52 (m, 2H), 1.77 (m, 1H), 2.18 (m, 1H), 3.01 (s, 3H), 3.19 (m, 3H), 3.49 (m, 1H), 4.98 (m,1H), 5.36 (m, 1H), 7.12 (s, 1H), 7.43 (m, 2H), 7.59 (d, J=7.2 Hz, 1H), 7.78 (m, 3H), 8.28 (s, 1H), 8.58 (s, 1H); mass spectrum (ES+) m/e 626 (M+1).

reactant | Boc-β-(2-thiazolyl)alanine | C(=O)(OC(C)(C)C)N[C@@H](CC=1SC=CN1)C(=O)O | C11H16N2O4S
reactant | Nδ-Boc-Nα-methylornithine β-naphthylamide | C1=C(C=CC2=CC=CC=C12)NC([C@@H](NC)CCCNC(=O)OC(C)(C)C)=O | C21H29N3O3
product | Boc-β-(2-Thiazolyl)alanyl-Nδ-Boc-Nα-Methylornithine β-Naphthylamide | C1=C(C=CC2=CC=CC=C12)NC([C@@H](N(C)C([C@@H](NC(=O)OC(C)(C)C)CC=1SC=CN1)=O)CCCNC(=O)OC(C)(C)C)=O | C32H43N5O6S
